2193-08-02 07:22:00 Physician Resident Progress Note
Chief Complaint: Hemoptysis
   24 Hour Events:
   - Patient had IR procedure yesterday.  Bronchial artery was embolized
   - Patient remained intubated overnight with double-lumen tube.  His
   sedation was weaned to solely Propofol
   - Propofol was weaned this morning, but patient was agitated and unable
   to understand current situation.  Propofol then increased.
   - He continued to have 10-15 cc blood suctioned with each suctioning.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-1**] 09:00 PM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2193-8-2**] 03:30 AM
   Other medications:
   Azithromycin 250 mg PO Q24H
   Acetaminophen 325-650 mg PO prn
   CeftriaXONE 1 gm IV Q24H
   Aluminum-Magnesium Hydrox.-Simethicone 15-30 mL PO QID:PRN
   Zolpidem Tartrate 5 mg PO HS:PRN insomnia
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-2**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 79 (68 - 92) bpm
   BP: 95/51(62) {93/44(62) - 137/72(86)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,797 mL
                                                                    201 mL
   PO:
             TF:
   IVF:
                                                                  2,297 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    400 mL
   Urine:
                                                                  3,020 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    777 mL
                                                                   -199 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 410 (400 - 410) mL
   Vt (Spontaneous): 308 (308 - 308) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 68.3 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   211 K/uL
   12.4 g/dL
   104 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.0 mEq/L
   14 mg/dL
   111 mEq/L
   142 mEq/L
   37.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2193-8-1**]  03:48 PM
                             [**2193-8-1**]  08:20 PM
                             [**2193-8-2**]  04:28 AM
   WBC
   9.2
   15.7
   14.4
   Hct
   37.6
   38.0
   37.4
   Plt
   [**Telephone/Fax (3) 8392**]
   Cr
   0.9
   1.1
   Glucose
   111
   104
   Other labs: PT / PTT / INR:12.8/28.3/1.1, Differential-Neuts:70.9 %,
   Lymph:24.8 %, Mono:2.4 %, Eos:1.4 %, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   Assessment and Plan:  The patient is a 52 yo man with h/o TB who
   presents with a 5-day history of worsening hemoptysis.
   # Hemoptysis:  Pt went to IR yesterday and had bronchial artery
   emoblized.  Continues to have hemoptysis (10-15 cc/ suction).  He
   remains intubated with dual lumen tube.  DDx includes TB v.
   bronchiectasis v. malignancy v. bronchovascular fistula v. PE v. AVM v.
   vasculitis.
    - Attempt extubation this morning if tolerated.
    - F/U bronchoscopy labs (gram stain, AFB, legionella)
    - Send sputum for fungi and cytology
    - Consider ANCA and GMB Ab to assess to vasculities
    - F/U CT in 3 months to observe lung lesion
    - ID reccs
    - IR reccs
   # TB:  The patient has a history of TB, for which he was reportedly
   treated in [**Country 3153**] in [**2190**].  ID has been following and recommends holding
   ABX until certain of infection.
    - F/U Bronchial AFB smear
    - F/U ID recs
much appreciated.
   # Leukocytosis:  Patient
s WBC today increased from 9.2 to 14.4.  Most
   likely [**1-14**] infection, as patient was rigoring during IR procedure and
   has a low grade temperature.
    - Continue Ceftriaxone/Azithromycin empirically for CAP
    - F/U cultures
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-8-1**] 02:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: ICU

2193-08-02 09:14:00 Physician Attending Progress Note
Chief Complaint: hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52M with history of TB, treated with RIPE for 9 months, presents with
   hemoptysis. Pt presented to hospital with intermittent hemoptysis.
   Bronch yesterday revealed severe hemoptysis, followed by recurrent
   massive hemoptysis, admitted to MICU and intubated:
   24 Hour Events:
 BRONCHOSCOPY - At [**2193-8-1**] 03:50 PM
 INVASIVE VENTILATION - START [**2193-8-1**] 03:51 PM
   -intubated with double lumen tube
   -IR identified bleeding and embolized a R bronchial artery and R
   intercostal artery
   -rigors in IR suite, cultured
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-1**] 09:00 PM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2193-8-2**] 03:30 AM
   Other medications:
   ctx, azithro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Nutritional Support: NPO
   Respiratory: No(t) Cough
   Endocrine: Hyperglycemia
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2193-8-2**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 78 (68 - 92) bpm
   BP: 109/58(70) {93/44(61) - 137/72(86)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,797 mL
                                                                    245 mL
   PO:
             TF:
   IVF:
                                                                  2,297 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    430 mL
   Urine:
                                                                  3,020 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    777 mL
                                                                   -185 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 410 (400 - 410) mL
   Vt (Spontaneous): 308 (308 - 308) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 15 cmH2O
   Plateau: 11 cmH2O
   Compliance: 136.7 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   211 K/uL
   104 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.0 mEq/L
   14 mg/dL
   111 mEq/L
   142 mEq/L
   37.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2193-8-1**]  03:48 PM
                             [**2193-8-1**]  08:20 PM
                             [**2193-8-2**]  04:28 AM
   WBC
   9.2
   15.7
   14.4
   Hct
   37.6
   38.0
   37.4
   Plt
   [**Telephone/Fax (3) 8392**]
   Cr
   0.9
   1.1
   Glucose
   111
   104
   Other labs: PT / PTT / INR:12.8/28.3/1.1, Differential-Neuts:70.9 %,
   Lymph:24.8 %, Mono:2.4 %, Eos:1.4 %, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.7 mg/dL
   Fluid analysis / Other labs: wbc up
   Imaging: cxr: stable RUL airspace opacity
   Microbiology: bal pending
   Assessment and Plan
 HEMOPTYSIS
 TUBERCULOSIS
   52M with history of TB, treated with RIPE for 9 months, presents with
   hemoptysis. Pt presented to hospital with intermittent hemoptysis.
   Bronch yesterday revealed severe hemoptysis, followed by recurrent
   massive hemoptysis, admitted to MICU, intubated with double lumen tube,
   s/p IR-guided embolization of arteries that were extravasating blood,
   now without evidence of active bleeding.
   Will plan to extubate this morning since patient appears comfortable
   and has excellent mental status with interpreter. If bleeding recurs
   will discuss with IR, IP, and surgery.
 by time of signing, patient
   extubated and doing well.
   Etiology remains unclear but most likely vascular erosion in area of
   old TB. Ddx included PNA, CAP, granulomatous process (histo?). Will
   follow-up micro from BAL and will stop respiratory isolation. Will
   continue discussion with ID. Holding off on vasculitis serologies. Cont
   abx for CAP.
   ICU Care
   Nutrition: restart diet when extubated
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2193-8-1**] 06:48 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   Communication: ICU consent signed Comments:
   Code status:  FULL
   Disposition : ICU, will observe for at least 24 hrs
   Total time spent: 35 minutes
   Patient is critically ill

2193-08-03 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2193-8-2**] 09:59 AM
 URINE CULTURE - At [**2193-8-2**] 05:55 PM
   - extubated in morning
   - AFBs neg x 3 so d/c'd precautions
   - spoke to family and updated them
   - no more episodes of hemoptysis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-2**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-3**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.1
C (97
   HR: 49 (49 - 87) bpm
   BP: 108/53(66) {94/48(59) - 129/70(83)} mmHg
   RR: 19 (9 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,007 mL
                                                                     76 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                    447 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    420 mL
   Urine:
                                                                  1,830 mL
                                                                    420 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                   -943 mL
                                                                   -344 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 410 (410 - 410) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   Plateau: 11 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 8.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   212 K/uL
   10.6 g/dL
   103 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   140 mEq/L
   32.1 %
   11.3 K/uL
        [image002.jpg]
                             [**2193-8-1**]  03:48 PM
                             [**2193-8-1**]  08:20 PM
                             [**2193-8-2**]  04:28 AM
                             [**2193-8-3**]  05:02 AM
   WBC
   9.2
   15.7
   14.4
   11.3
   Hct
   37.6
   38.0
   37.4
   32.1
   Plt
   [**Telephone/Fax (3) 8415**]12
   Cr
   0.9
   1.1
   1.3
   Glucose
   111
   104
   103
   Other labs: PT / PTT / INR:12.8/28.3/1.1, Differential-Neuts:85.7 %,
   Band:0.0 %, Lymph:7.4 %, Mono:5.4 %, Eos:1.3 %, Ca++:8.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   The patient is a 52 yo man with h/o TB who presents with a 5-day
   history of worsening hemoptysis.
   # Hemoptysis:  Pt went to IR and had bronchial and intercostal artery
   emoblized.  Was intubated with dual lumen ETT and had resolution of
   hemoptysis, extubated on [**2193-8-2**].  DDx includes bronchiectasis v.
   malignancy v. AVM v. vasculitis.  TB much less likely given negative
   AFBs.
   - continue to monitor respiratory status
   - would return to IR if hemoptysis recurs
   - BAL: GNR on CTX and Azithro
   - f/u ANCA and GMB Ab to assess to vasculities
   - F/U CT in 3 months to observe lung lesion
   - ID reccs
   - IR reccs
   # TB:  The patient has a history of TB, for which he completed
   treatment in [**Country 3153**] in [**2190**].  ID has been following.  Has three negative
   AFBs.
   - have d/c
d respiratory precautions
   - ID reccs
   # Leukocytosis/?pneumonia:  Elevated WBC count and infiltrates on chest
   CT suggest either hemorrhage or purulent material consistent with
   pneumonia.  Most likely [**1-14**] infection, as patient was rigoring during
   IR procedure and has a low grade temperature.
    - Continue Ceftriaxone(today is day [**3-20**]) /Azithromycin ([**3-17**])
   empirically for CAP
    - F/U cultures
   # Acute kidney injury:  Mild creatinine elevation and hematuria on UA.
   [**Month (only) 8**] have some pre-renal component but would also consider AIN in
   setting of antibiotic as well as ATN given exposure to contrast.
   - IVF challenge
   - check UA, lytes, osmoles, and eosinophils
   - continue to trend creatinine
   - repeat UA
   - consider renal ultrasound if UA sediment still active
   ICU Care
   Nutrition:  regular
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-8-1**] 06:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-08-03 09:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2193-8-2**] 09:59 AM
 URINE CULTURE - At [**2193-8-2**] 05:55 PM
   Extubated yesterday, no hemoptysis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-2**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Abx include CFTX/azithro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2193-8-3**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.1
C (97
   HR: 49 (49 - 87) bpm
   BP: 108/53(66) {94/48(59) - 129/70(81)} mmHg
   RR: 19 (9 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,007 mL
                                                                     93 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                    447 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    420 mL
   Urine:
                                                                  1,830 mL
                                                                    420 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                   -943 mL
                                                                   -328 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Awake, alert, language barrier. O/p clear, neck supple, lungs with insp
   squeaks right base, otherwise clear, abd soft, NT, ND, PPP, neuro exam
   grossly intact, skin warm, WP. Neurologic wnl.
   Labs / Radiology
   10.6 g/dL
   212 K/uL
   103 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   140 mEq/L
   32.1 %
   11.3 K/uL
        [image002.jpg]
                             [**2193-8-1**]  03:48 PM
                             [**2193-8-1**]  08:20 PM
                             [**2193-8-2**]  04:28 AM
                             [**2193-8-3**]  05:02 AM
   WBC
   9.2
   15.7
   14.4
   11.3
   Hct
   37.6
   38.0
   37.4
   32.1
   Plt
   [**Telephone/Fax (3) 8415**]12
   Cr
   0.9
   1.1
   1.3
   Glucose
   111
   104
   103
   Other labs: PT / PTT / INR:12.8/28.3/1.1, Differential-Neuts:85.7 %,
   Band:0.0 %, Lymph:7.4 %, Mono:5.4 %, Eos:1.3 %, Ca++:8.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Microbiology: BAL - o/p flora and 3000/ml GNR
   Assessment and Plan
 HEMOPTYSIS
   52M with h/o TB, presented with a 5-day history of worsening
   hemoptysis, transferred to MICU with massive hemoptysis from RUL,
   intubated with dual-lumen tube 2 days ago, s/p successful IR
   embolization. If rebleeds may need thoracics ([**Last Name (un) 8416**]), since IP
   visualized the airways without any endobronchial lesions.
   Now extubated and doing well except for vague abdominal discomfort.
   Increased creatinine - likely volume depleted + dye load from
   angiograhy. Will hydrate and continue full diet. Repeat the u/a.
   Upon discharge, please set him up for pulmonary follow up with CXR and
   spirometry for within 4-6 weeks. He should f/u with his PCP [**Name Initial (PRE) 8417**] 2
   weeks of discharge.
   ICU Care
   Nutrition: full diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-8-1**] 06:48 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, up to chair)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Stable to transfer to floor